*  Sonnet Data File
*  From: emgraph Version : 16.56
*  From Project: Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness
*  Data is De-embedded 
*  Data File Written: 03/24/2020 17:01:58
* < HDATE 03/06/2020 17:23:53
* < MDATE 03/06/2020 17:24:47
* < PARAMS
* < ILD_thickness = 0.3
* < ILD_dielectric_const = 4.0
* < END PARAMS
*  Spice Data
* Limits: C>0.01pF L<100.0nH R<1000.0Ohms K>0.01
    *  Analysis frequencies: 100.0, 110.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param28_0 1 2 3 4 REF
C_C1 1 REF 1.0624479598243pf
C_C2 1 2 15.933024250755pf
C_C3 1 3 0.0216261261656pf
C_C4 1 4 0.2240237538776pf
C_C5 2 REF 1.2572046160443pf
C_C6 2 3 0.1158358246119pf
C_C7 3 REF 0.4824742093674pf
C_C8 3 4 6.191299866009pf
C_C9 4 REF 0.4818085182422pf
L_L1 3 5 1.3013390896107nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param28_0

    *  Analysis frequencies: 110.0, 120.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param28_1 1 2 3 4 REF
C_C1 1 REF 0.8102753404369pf
C_C2 1 2 16.355480488865pf
C_C3 1 3 0.0207793555576pf
C_C4 1 4 0.226637559732pf
C_C5 2 REF 1.0104200591075pf
C_C6 2 3 0.1160823007975pf
C_C7 3 REF 0.483105623607pf
C_C8 3 4 4.578057019188pf
C_C9 4 REF 0.481299838416pf
L_L1 3 5 1.3026454599024nh
R_RL1 5 4 2.578562362e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param28_1

    *  Analysis frequencies: 120.0, 130.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param28_2 1 2 3 4 REF
C_C1 1 REF 0.6224382323305pf
C_C2 1 2 16.781260910597pf
C_C3 1 3 0.019781507616pf
C_C4 1 4 0.2299401664824pf
C_C5 2 REF 0.8296341091282pf
C_C6 2 3 0.1164983486351pf
C_C7 3 REF 0.4837176695197pf
C_C8 3 4 3.4515179264977pf
C_C9 4 REF 0.4809567083381pf
L_L1 3 5 1.3037330678881nh
R_RL1 5 4 1.5462650936e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param28_2

    *  Analysis frequencies: 130.0, 145.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param28_3 1 2 3 4 REF
C_C1 1 REF 0.4614399272429pf
C_C2 1 2 17.332238966851pf
C_C3 1 3 0.0183278758286pf
C_C4 1 4 0.2350013625799pf
C_C5 2 REF 0.6789942714888pf
C_C6 2 3 0.1172472163058pf
C_C7 3 REF 0.4844601887664pf
C_C8 3 4 2.4822061203623pf
C_C9 4 REF 0.4807291176615pf
L_L1 3 5 1.3048331387131nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param28_3

    *  Analysis frequencies: 145.0, 160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param28_4 1 2 3 4 REF
C_C1 1 REF 0.3433851584564pf
C_C2 1 2 18.026627296812pf
C_C3 1 3 0.016338413501pf
C_C4 1 4 0.2421782154129pf
C_C5 2 REF 0.5744354122526pf
C_C6 2 3 0.118440729256pf
C_C7 3 REF 0.4853014041616pf
C_C8 3 4 1.7055306936549pf
C_C9 4 REF 0.4806811778063pf
L_L1 3 5 1.3059315889652nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param28_4

    *  Analysis frequencies: 160.0, 175.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param28_5 1 2 3 4 REF
C_C1 1 REF 0.279791875736pf
C_C2 1 2 18.779325498646pf
C_C3 1 3 0.0140659593765pf
C_C4 1 4 0.2505633400134pf
C_C5 2 REF 0.5251239007192pf
C_C6 2 3 0.1199782387085pf
C_C7 3 REF 0.4860821572265pf
C_C8 3 4 1.1917966221415pf
C_C9 4 REF 0.4808246337232pf
L_L1 3 5 1.3068176092722nh
R_RL1 5 4 -2.051105309e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param28_5

    *  Analysis frequencies: 175.0, 190.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param28_6 1 2 3 4 REF
C_C1 1 REF 0.2486046541588pf
C_C2 1 2 19.60281016134pf
C_C3 1 3 0.0115084160836pf
C_C4 1 4 0.2601001679433pf
C_C5 2 REF 0.5088867289505pf
C_C6 2 3 0.1218733457853pf
C_C7 3 REF 0.4867908765787pf
C_C8 3 4 0.8400898663538pf
C_C9 4 REF 0.4811033056904pf
L_L1 3 5 1.3075441172617nh
R_RL1 5 4 -3.013024457e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param28_6

    *  Analysis frequencies: 190.0, 210.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param28_7 1 2 3 4 REF
C_C1 1 REF 0.2346648177688pf
C_C2 1 2 20.671763682751pf
C_C3 1 4 0.2727213279059pf
C_C4 2 REF 0.513489085232pf
C_C5 2 3 0.1245849235212pf
C_C6 3 REF 0.4875126568406pf
C_C7 3 4 0.5596545148573pf
C_C8 4 REF 0.4815374307602pf
L_L1 3 5 1.3082276705704nh
R_RL1 5 4 -3.907008613e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param28_7

    *  Analysis frequencies: 210.0, 230.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param28_8 1 2 3 4 REF
C_C1 1 REF 0.2316907916106pf
C_C2 1 2 22.030925461149pf
C_C3 1 4 0.2888609018014pf
C_C4 2 REF 0.5332363419186pf
C_C5 2 3 0.1283275248189pf
C_C6 3 REF 0.4881817370338pf
C_C7 3 4 0.3439185906132pf
C_C8 4 REF 0.4820880889727pf
L_L1 3 5 1.3088706685387nh
R_RL1 5 4 -4.672825185e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param28_8

    *  Analysis frequencies: 230.0, 255.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param28_9 1 2 3 4 REF
C_C1 1 REF 0.2332506754582pf
C_C2 1 2 23.776980770276pf
C_C3 1 4 0.3094989808001pf
C_C4 2 REF 0.563122212187pf
C_C5 2 3 0.1335154156884pf
C_C6 3 REF 0.4887185228857pf
C_C7 3 4 0.1851289835523pf
C_C8 4 REF 0.482694342857pf
L_L1 1 5 99.927695292838nh
R_RL1 5 2 10.783039512668
L_L2 3 6 1.3094306707432nh
R_RL2 6 4 -5.179217055e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param28_9

    *  Analysis frequencies: 255.0, 280.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param28_10 1 2 3 4 REF
C_C1 1 REF 0.2332022834098pf
C_C2 1 2 26.003271349679pf
C_C3 1 4 0.3354879934477pf
C_C4 2 REF 0.5982863906446pf
C_C5 2 3 0.1405663495957pf
C_C6 3 REF 0.4890494876496pf
C_C7 3 4 0.0703725769077pf
C_C8 4 REF 0.4832692122536pf
L_L1 1 5 63.407252468165nh
R_RL1 5 2 2.8958459929822
L_L2 3 6 1.3098973078921nh
R_RL2 6 4 -5.349191724e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param28_10

    *  Analysis frequencies: 280.0, 310.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param28_11 1 2 3 4 REF
C_C1 1 REF 0.2267399858956pf
C_C2 1 2 28.923758890362pf
C_C3 1 4 0.3689536823347pf
C_C4 2 REF 0.6367321818122pf
C_C5 2 3 0.1503295941997pf
C_C6 3 REF 0.4891071269236pf
C_C7 4 REF 0.4837375371769pf
L_L1 1 5 40.103462343055nh
R_RL1 5 2 -0.867592867454
L_L2 3 6 1.3101915299952nh
R_RL2 6 4 -5.085927205e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param28_11

    *  Analysis frequencies: 310.0, 340.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param28_12 1 2 3 4 REF
C_C1 1 REF 0.2103094827802pf
C_C2 1 2 32.83642393125pf
C_C3 1 4 0.4128947055906pf
C_C4 2 REF 0.6786588519098pf
C_C5 2 3 0.1639175752513pf
C_C6 3 REF 0.4888702886853pf
C_C7 4 REF 0.4840659366818pf
L_L1 1 5 24.966231687888nh
R_RL1 5 2 -1.95156728018
L_L2 3 6 1.3099925165733nh
R_RL2 6 4 -4.347446611e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param28_12

    *  Analysis frequencies: 340.0, 375.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param28_13 1 2 3 4 REF
C_C1 1 REF 0.1789926433197pf
C_C2 1 2 38.424493021686pf
C_C3 1 4 0.474501168474pf
C_C4 2 REF 0.728193420395pf
C_C5 2 3 0.1837795458109pf
C_C6 3 REF 0.4883330484448pf
C_C7 4 REF 0.4842804174352pf
R_R1 1 2 456.87195489053
L_L1 1 5 15.161383590265nh
R_RL1 5 2 -1.492141654826
L_L2 3 6 1.3096178007984nh
R_RL2 6 4 -3.127566379e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param28_13

    *  Analysis frequencies: 375.0, 410.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param28_14 1 2 3 4 REF
C_C1 1 REF 0.1250723093032pf
C_C2 1 2 46.891460030896pf
C_C3 1 4 0.5666910191108pf
C_C4 2 REF 0.7940508123779pf
C_C5 2 3 0.2141462305233pf
C_C6 3 REF 0.487523690788pf
C_C7 4 REF 0.4844974717899pf
R_R1 1 2 259.73823671296
L_L1 1 5 9.0589167524246nh
R_RL1 5 2 -0.331456265816
L_L2 3 6 1.3090294408201nh
R_RL2 6 4 -1.420355693e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param28_14

    *  Analysis frequencies: 410.0, 450.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param28_15 1 2 3 4 REF
C_C1 1 REF 0.0284940018452pf
C_C2 1 2 61.223117175041pf
C_C3 1 4 0.7217683148953pf
C_C4 2 REF 0.89770250616pf
C_C5 2 3 0.2655551410755pf
C_C6 3 REF 0.4864318757825pf
C_C7 4 REF 0.484983120489pf
R_R1 1 2 161.95116912554
L_L1 1 5 5.255617320362nh
R_RL1 5 2 -1.041094274633
L_L2 3 6 1.3080028676648nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param28_15

    *  Analysis frequencies: 450.0, 495.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param28_16 1 2 3 4 REF
C_C1 1 2 91.426902608944pf
C_C2 1 4 1.0481373817959pf
C_C3 2 REF 1.1099821589684pf
C_C4 2 3 0.3735117805014pf
C_C5 3 REF 0.4848363609575pf
C_C6 4 REF 0.486510030377pf
R_R1 1 2 98.341321023283
L_L1 1 5 2.221933231974nh
R_RL1 5 2 -0.320972644605
L_L2 1 6 91.587001222354nh
R_RL2 6 3 -0.294639182514
L_L3 1 7 90.82222663359nh
R_RL3 7 4 -0.295743380579
L_L4 2 8 91.618453001153nh
R_RL4 8 3 0.0046258356301
L_L5 2 9 90.856121389728nh
R_RL5 9 4 0.004613564371
L_L6 3 10 1.3059108572613nh
R_RL6 10 4 2.6890154686e-5
Kn_K1 L_L1 L_L2 0.0767762971661
Kn_K2 L_L1 L_L3 0.0770128834588
Kn_K3 L_L1 L_L4 -0.078967506724
Kn_K4 L_L1 L_L5 -0.07938407456
Kn_K5 L_L2 L_L3 0.9928494894665
Kn_K6 L_L2 L_L4 0.9878719191282
Kn_K7 L_L2 L_L5 0.9806577998166
Kn_K8 L_L2 L_L6 -0.09466957978
Kn_K9 L_L3 L_L4 0.9806857923215
Kn_K10 L_L3 L_L5 0.9877699784645
Kn_K11 L_L3 L_L6 0.0248441308587
Kn_K12 L_L4 L_L5 0.9928519914346
Kn_K13 L_L4 L_L6 -0.09454165758
Kn_K14 L_L5 L_L6 0.0249516349708
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param28_16

    *  Analysis frequencies: 495.0, 545.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param28_17 1 2 3 4 REF
C_C1 1 2 177.84372574805pf
C_C2 1 4 1.9827392420938pf
C_C3 2 REF 1.7135425727488pf
C_C4 2 3 0.6813316095392pf
C_C5 3 REF 0.4818127714041pf
C_C6 4 REF 0.4921899539649pf
R_R1 1 2 48.542501869114
L_L1 1 5 0.7730758504623nh
R_RL1 5 2 -0.099034055593
L_L2 1 6 36.620685164514nh
R_RL2 6 3 -0.074487934691
L_L3 1 7 35.910096437187nh
R_RL3 7 4 -0.075523845382
L_L4 2 8 36.716492041805nh
R_RL4 8 3 0.0011182291426
L_L5 2 9 36.009411095867nh
R_RL5 9 4 0.0011622870605
L_L6 3 10 1.3001079915832nh
R_RL6 10 4 4.5801047749e-5
Kn_K1 L_L1 L_L2 0.0636439166646
Kn_K2 L_L1 L_L3 0.0639376481641
Kn_K3 L_L1 L_L4 -0.081543533069
Kn_K4 L_L1 L_L5 -0.082672652825
Kn_K5 L_L2 L_L3 0.9821222208154
Kn_K6 L_L2 L_L4 0.9894594534588
Kn_K7 L_L2 L_L5 0.9714416911837
Kn_K8 L_L2 L_L6 -0.145701367143
Kn_K9 L_L3 L_L4 0.9715623926502
Kn_K10 L_L3 L_L5 0.9892517615669
Kn_K11 L_L3 L_L6 0.0431389933091
Kn_K12 L_L4 L_L5 0.9821696007753
Kn_K13 L_L4 L_L6 -0.145257295704
Kn_K14 L_L5 L_L6 0.0433357963069
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param28_17

    *  Analysis frequencies: 545.0, 600.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param28_18 1 2 3 4 REF
C_C1 1 2 766.95246093713pf
C_C2 1 4 8.3607125587842pf
C_C3 2 REF 5.8303766523343pf
C_C4 2 3 2.7764129722134pf
C_C5 3 REF 0.4663322932252pf
C_C6 4 REF 0.5358813352025pf
R_R1 1 2 8.9873829866131
R_R2 1 4 788.7186057395
R_R3 2 4 -788.1317202774
L_L1 1 5 14.340544355725nh
R_RL1 5 REF -0.201278583392
L_L2 1 6 0.1211918463013nh
R_RL2 6 2 -0.017966082645
L_L3 1 7 7.209309237598nh
R_RL3 7 3 -0.010707641408
L_L4 1 8 6.5549012320606nh
R_RL4 8 4 -0.011727101239
L_L5 2 9 14.26270707488nh
R_RL5 9 REF -0.22170312643
L_L6 2 10 7.2370679184624nh
R_RL6 10 3 -6.26810677e-4
L_L7 2 11 6.5872886985342nh
R_RL7 11 4 -4.345283208e-4
L_L8 3 12 21.415594796658nh
R_RL8 12 REF -0.219159790615
L_L9 3 13 1.2612297012753nh
R_RL9 13 4 3.9129836835e-5
L_L10 4 14 20.753476608256nh
R_RL10 14 REF -0.220179988016
Kn_K1 L_L1 L_L2 0.0754861234989
Kn_K2 L_L1 L_L5 0.9957666915433
Kn_K3 L_L1 L_L8 0.8144792091607
Kn_K4 L_L1 L_L10 0.8271462960861
Kn_K5 L_L2 L_L3 0.0499789972848
Kn_K6 L_L2 L_L4 0.0498178078279
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.079523232257
Kn_K9 L_L2 L_L7 -0.085943428459
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L10 1.0
Kn_K12 L_L3 L_L4 0.9093973075832
Kn_K13 L_L3 L_L5 1.0
Kn_K14 L_L3 L_L6 0.9916127483363
Kn_K15 L_L3 L_L7 0.900379871619
Kn_K16 L_L3 L_L8 1.0
Kn_K17 L_L3 L_L9 -0.31764312441
Kn_K18 L_L3 L_L10 1.0
Kn_K19 L_L4 L_L5 1.0
Kn_K20 L_L4 L_L6 0.9012048407775
Kn_K21 L_L4 L_L7 0.9907814217328
Kn_K22 L_L4 L_L8 1.0
Kn_K23 L_L4 L_L9 0.1055239241757
Kn_K24 L_L4 L_L10 1.0
Kn_K25 L_L5 L_L8 0.8136776503862
Kn_K26 L_L5 L_L10 0.8261969211376
Kn_K27 L_L6 L_L7 0.9097730727012
Kn_K28 L_L6 L_L8 1.0
Kn_K29 L_L6 L_L9 -0.31626730643
Kn_K30 L_L6 L_L10 1.0
Kn_K31 L_L7 L_L8 1.0
Kn_K32 L_L7 L_L9 0.1060671383712
Kn_K33 L_L7 L_L10 1.0
Kn_K34 L_L8 L_L9 0.1850400275109
Kn_K35 L_L8 L_L10 0.9702107239114
Kn_K36 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param28_18

    *  Analysis frequencies: 600.0, 660.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param28_19 1 2 3 4 REF
C_C1 1 REF 13.025372953958pf
C_C2 1 3 6.4752307496851pf
C_C3 2 4 19.534395814687pf
C_C4 3 REF 0.5293041027158pf
C_C5 4 REF 0.3409909180046pf
R_R1 1 REF 841.29708780405
R_R2 1 2 -6.746893475137
R_R3 1 4 -596.9010730131
R_R4 2 REF -885.5001682239
R_R5 2 4 597.97763313724
L_L1 1 5 4.8415809340074nh
R_RL1 5 REF -0.022517021901
L_L2 1 6 0.3476108372146nh
R_RL2 6 2 0.3147177471289
L_L3 1 7 3.0800600281474nh
R_RL3 7 3 0.1502428579474
L_L4 1 8 2.5262226999752nh
R_RL4 8 4 0.1960717320655
L_L5 2 9 5.1541898665361nh
R_RL5 9 REF 0.3283578714334
L_L6 2 10 2.9764620277502nh
R_RL6 10 3 0.0301382535113
L_L7 2 11 2.366136606605nh
R_RL7 11 4 0.013992874361
L_L8 3 12 7.9231596325069nh
R_RL8 12 REF 0.1517330958488
L_L9 3 13 1.181950916925nh
R_RL9 13 4 0.0031034071923
L_L10 4 14 7.3782878804951nh
R_RL10 14 REF 0.2010494066336
Kn_K1 L_L1 L_L2 0.0134902944887
Kn_K2 L_L1 L_L5 0.9656965841361
Kn_K3 L_L1 L_L8 0.7818303093878
Kn_K4 L_L1 L_L10 0.8109344848163
Kn_K5 L_L2 L_L3 0.218032561763
Kn_K6 L_L2 L_L4 0.2708894376523
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.119946022559
Kn_K9 L_L2 L_L7 -0.103386069342
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L9 0.0440636574949
Kn_K12 L_L2 L_L10 1.0
Kn_K13 L_L3 L_L4 0.7930531374835
Kn_K14 L_L3 L_L5 1.0
Kn_K15 L_L3 L_L6 0.9427434636658
Kn_K16 L_L3 L_L7 0.7358723993472
Kn_K17 L_L3 L_L8 0.9802266607771
Kn_K18 L_L3 L_L9 -0.454870147916
Kn_K19 L_L3 L_L10 1.0
Kn_K20 L_L4 L_L5 1.0
Kn_K21 L_L4 L_L6 0.714162598257
Kn_K22 L_L4 L_L7 0.9294459352434
Kn_K23 L_L4 L_L8 1.0
Kn_K24 L_L4 L_L9 0.1817492619225
Kn_K25 L_L4 L_L10 1.0
Kn_K26 L_L5 L_L6 0.0264875341421
Kn_K27 L_L5 L_L7 0.0203365018809
Kn_K28 L_L5 L_L8 0.7903148235158
Kn_K29 L_L5 L_L9 -0.013259406152
Kn_K30 L_L5 L_L10 0.8242836368636
Kn_K31 L_L6 L_L7 0.7839003699761
Kn_K32 L_L6 L_L8 1.0
Kn_K33 L_L6 L_L9 -0.477776826439
Kn_K34 L_L6 L_L10 1.0
Kn_K35 L_L7 L_L8 1.0
Kn_K36 L_L7 L_L9 0.170907832808
Kn_K37 L_L7 L_L10 1.0
Kn_K38 L_L8 L_L9 0.2821427023161
Kn_K39 L_L8 L_L10 0.9233412038845
Kn_K40 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param28_19

    *  Analysis frequencies: 660.0, 725.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param28_20 1 2 3 4 REF
C_C1 1 2 470.60231699265pf
C_C2 1 4 5.145576729096pf
C_C3 2 REF 3.7556620643599pf
C_C4 2 3 1.7231968835989pf
C_C5 3 REF 0.4725529044279pf
C_C6 4 REF 0.5118705289885pf
R_R1 1 2 80.501956654901
L_L1 1 5 17.061996853171nh
R_RL1 5 REF -0.204991434236
L_L2 1 6 0.0930808053848nh
R_RL2 6 2 -2.590733022e-3
L_L3 1 7 8.0323352204443nh
R_RL3 7 3 -1.603950572e-3
L_L4 1 8 7.3677212217043nh
R_RL4 8 4 -1.798357262e-3
L_L5 2 9 16.91828405524nh
R_RL5 9 REF -0.207878347449
L_L6 2 10 8.0840723390468nh
R_RL6 10 3 5.5679571002e-4
L_L7 2 11 7.4268900303441nh
R_RL7 11 4 4.8979872077e-4
L_L8 3 12 24.945334231817nh
R_RL8 12 REF -0.212914731917
L_L9 3 13 1.2648451303489nh
R_RL9 13 4 4.1067383961e-5
L_L10 4 14 24.272201092868nh
R_RL10 14 REF -0.213353430845
Kn_K1 L_L1 L_L2 0.0939496087148
Kn_K2 L_L1 L_L5 0.9972696596659
Kn_K3 L_L1 L_L8 0.823416991356
Kn_K4 L_L1 L_L10 0.8345473751131
Kn_K5 L_L2 L_L3 0.0239071731767
Kn_K6 L_L2 L_L4 0.0204751318762
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.083473218693
Kn_K9 L_L2 L_L7 -0.091557229333
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L9 -0.010829511064
Kn_K12 L_L2 L_L10 1.0
Kn_K13 L_L3 L_L4 0.9187234564905
Kn_K14 L_L3 L_L5 1.0
Kn_K15 L_L3 L_L6 0.9942295923945
Kn_K16 L_L3 L_L7 0.9123800558973
Kn_K17 L_L3 L_L8 1.0
Kn_K18 L_L3 L_L9 -0.30266764587
Kn_K19 L_L3 L_L10 1.0
Kn_K20 L_L4 L_L5 1.0
Kn_K21 L_L4 L_L6 0.9135818174964
Kn_K22 L_L4 L_L7 0.9937164127907
Kn_K23 L_L4 L_L8 1.0
Kn_K24 L_L4 L_L9 0.0983112577338
Kn_K25 L_L4 L_L10 1.0
Kn_K26 L_L5 L_L8 0.8221498694345
Kn_K27 L_L5 L_L10 0.8330785473279
Kn_K28 L_L6 L_L7 0.9192802424377
Kn_K29 L_L6 L_L8 1.0
Kn_K30 L_L6 L_L9 -0.300535525164
Kn_K31 L_L6 L_L10 1.0
Kn_K32 L_L7 L_L8 1.0
Kn_K33 L_L7 L_L9 0.0991312304994
Kn_K34 L_L7 L_L10 1.0
Kn_K35 L_L8 L_L9 0.1725065410438
Kn_K36 L_L8 L_L10 0.9743920602512
Kn_K37 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param28_20

    *  Analysis frequencies: 725.0, 795.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param28_21 1 2 3 4 REF
C_C1 1 2 83.677830367611pf
C_C2 1 4 0.953302342901pf
C_C3 2 REF 1.0534499012433pf
C_C4 2 3 0.3468167325045pf
C_C5 3 REF 0.4819439170356pf
C_C6 4 REF 0.4821407715394pf
R_R1 1 2 164.41255556119
L_L1 1 5 0.3822498611788nh
R_RL1 5 2 -0.024562372122
L_L2 1 6 40.251990844443nh
R_RL2 6 3 0.0068574248715
L_L3 1 7 39.476157530851nh
R_RL3 7 4 0.0064197727057
L_L4 2 8 40.607131256976nh
R_RL4 8 3 0.0026255589535
L_L5 2 9 39.840007151441nh
R_RL5 9 4 0.0026250552146
L_L6 3 10 1.2976858016697nh
R_RL6 10 4 1.0e-5
Kn_K1 L_L1 L_L4 -0.09358205686
Kn_K2 L_L1 L_L5 -0.095594602274
Kn_K3 L_L2 L_L3 0.983770196676
Kn_K4 L_L2 L_L4 0.995282243699
Kn_K5 L_L2 L_L5 0.9789291360511
Kn_K6 L_L2 L_L6 -0.1434496816
Kn_K7 L_L3 L_L4 0.9792290514309
Kn_K8 L_L3 L_L5 0.9951911527497
Kn_K9 L_L3 L_L6 0.0364557090581
Kn_K10 L_L4 L_L5 0.9839138218187
Kn_K11 L_L4 L_L6 -0.142221137735
Kn_K12 L_L5 L_L6 0.0368944819765
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param28_21

    *  Analysis frequencies: 795.0, 875.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param28_22 1 2 3 4 REF
C_C1 1 REF 0.2723087551211pf
C_C2 1 2 31.088740187679pf
C_C3 1 4 0.3826347808333pf
C_C4 2 REF 0.6921912606759pf
C_C5 2 3 0.1583236815604pf
C_C6 3 REF 0.4828700247866pf
C_C7 4 REF 0.4776592159197pf
R_R1 1 2 373.82752876938
L_L1 1 5 0.7833335102871nh
R_RL1 5 2 0.0012160425749
L_L2 3 6 1.3022372944587nh
R_RL2 6 4 -3.01804298e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param28_22

    *  Analysis frequencies: 875.0, 960.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param28_23 1 2 3 4 REF
C_C1 1 REF 0.3877007803139pf
C_C2 1 2 15.344725938194pf
C_C3 1 3 0.0465009204873pf
C_C4 1 4 0.2119673866606pf
C_C5 2 REF 0.5911452653569pf
C_C6 2 3 0.100201987457pf
C_C7 3 REF 0.4823002473393pf
C_C8 4 REF 0.4754367446642pf
R_R1 1 2 972.51767419711
L_L1 1 5 1.1448049060122nh
R_RL1 5 2 -0.022566479726
L_L2 3 6 1.300993952235nh
R_RL2 6 4 -6.345514032e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param28_23

    *  Analysis frequencies: 960.0, 1055.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param28_24 1 2 3 4 REF
C_C1 1 REF 0.4352170917132pf
C_C2 1 2 9.1879604526538pf
C_C3 1 3 0.0750432807225pf
C_C4 1 4 0.1456230303332pf
C_C5 2 REF 0.5578870826698pf
C_C6 2 3 0.0755804451521pf
C_C7 2 4 0.0152185808461pf
C_C8 3 REF 0.4805268284469pf
C_C9 4 REF 0.472859874137pf
L_L1 1 5 1.675388087891nh
R_RL1 5 2 -6.248142611e-3
L_L2 3 6 1.2987594083936nh
R_RL2 6 4 -1.54007293e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param28_24

    *  Analysis frequencies: 1055.0, 1160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param28_25 1 2 3 4 REF
C_C1 1 REF 0.4614793741905pf
C_C2 1 2 6.6983645519345pf
C_C3 1 3 0.0931856821973pf
C_C4 1 4 0.115534730416pf
C_C5 2 REF 0.5511594069218pf
C_C6 2 3 0.0619620855635pf
C_C7 2 4 0.0500717975297pf
C_C8 3 REF 0.4785769161926pf
C_C9 4 REF 0.4703716603656pf
L_L1 1 5 1.8654318856912nh
R_RL1 5 2 -2.670956568e-3
L_L2 3 6 1.2959059655779nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param28_25

    *  Analysis frequencies: 1160.0, 1200.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param28_26 1 2 3 4 REF
C_C1 1 REF 0.4731003012955pf
C_C2 1 2 6.0070954187259pf
C_C3 1 3 0.1042600113524pf
C_C4 1 4 0.1040320976302pf
C_C5 2 REF 0.5534268985609pf
C_C6 2 3 0.0542340443859pf
C_C7 2 4 0.0651010381529pf
C_C8 3 REF 0.4772286553898pf
C_C9 4 REF 0.4687203077162pf
L_L1 1 5 1.9365788836377nh
R_RL1 5 2 -0.048390229184
L_L2 3 6 1.2946949271902nh
R_RL2 6 4 -2.291340235e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param28_26

